US07115412B2
Preparation of (R)-7-diethylaminocarbonylmethyloxy-3-(2-aminopropyl)indole
(R)-7-Diethylaminocarbonylmethyloxy-3-(2-phthalimidopropyl)indole 10.27 g was suspended in 100 ml of ethanol, and 2.5 ml of hydrazine monohydrate was added thereto. The suspension was heated to reflux in an oil bath of 85° C. For 3 hours. After cooling down, the resulting deposited insoluble materials were filtered off, and the filtrate was concentrated under reduced pressure. Ethyl acetate and a sodium hydroxide aqueous solution were added to the residue and distributed in liquid-liquid, and the organic layer was further washed with a sodium hydroxide aqueous solution and dried. The solution was evaporated under reduced pressure. The resulting residue was slowly crystallized, and dried under reduced pressure, whereby 6.90 g of the title compound was obtained in the form of a pale brownish white substance.

reactant | (R)-7-Diethylaminocarbonylmethyloxy-3-(2-phthalimidopropyl)indole | 10.27 g | C(C)N(C(=O)COC=1C=CC=C2C(=CNC12)C[C@@H](C)N1C(C=2C(C1=O)=CC=CC2)=O)CC | C25H27N3O4
reactant | hydrazine monohydrate | 2.5 ml | O.NN
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | (R)-7-diethylaminocarbonylmethyloxy-3-(2-aminopropyl)indole | 6.90 g | C(C)N(C(=O)COC=1C=CC=C2C(=CNC12)C[C@@H](C)N)CC | C17H25N3O2
